US08859569B2
1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidamide
Under nitrogen atmosphere, 3.600 g (14.92 mmol) of 1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile was dissolved in 37 ml of absolute methanol. 1.306 g (24.17 mmol) of sodium methylate was added and it was stirred for 4 h at RT. 1.452 g (24.17 mmol) of acetic acid and 1.197 g (22.38 mmol) of ammonium chloride were added and the suspension was stirred overnight at 50° C. The reaction mixture was concentrated by evaporation and the residue was suspended in 100 ml water and 25 ml 1N hydrochloric acid. The mixture was extracted with dichloromethane. The aqueous phase was made basic (pH=12) with 2N sodium hydroxide solution and extracted three times with a mixture of dichloromethane/methanol (v/v=8:2). The combined organic phases were dried over sodium sulphate, concentrated by evaporation, toluene was added and again evaporated to dryness. 1.94 g (50% of theor.) of the target compound was obtained.

reactant | 1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carbonitrile | 14.92 mmol, 3.600 g | FC1=C(CN2N=C(C3=C2CCC3)C#N)C=CC=C1 | C14H12FN3
reactant | sodium methylate | 24.17 mmol, 1.306 g | C[O-].[Na+]
reactant | acetic acid | 24.17 mmol, 1.452 g | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | 22.38 mmol, 1.197 g | [Cl-].[NH4+]
solvent | methanol | 37 ml | CO | CH4O
product | 1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidamide | FC1=C(CN2N=C(C3=C2CCC3)C(N)=N)C=CC=C1 | C14H15FN4
